US05677305
First, 510 mg of 6-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione was added to 5 ml of conc. sulfuric acid with ice-cooling and dissolved therein. Then, 253 mg of potassium nitrate was added to the resultant solution. The mixture was heated at 60° C. for 3 hours with stirring. Then, 20 ml of ice water was added to the mixture and the pH of the solution was adjusted to 5 with a solution of 4N sodium hydroxide. The precipitated yellow crystals were filtered. The crystals thus obtained were washed with water and dried to give 426 mg of 6-nitro-7-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione.

reactant | 6-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione | 510 mg | O=C1C=CN(C=C1)C=1C=C2NC(C(NC2=CC1)=O)=O | C13H9N3O3
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | 253 mg | [N+](=O)([O-])[O-].[K+]
reactant | sodium hydroxide | 4N | [OH-].[Na+]
product | 6-nitro-7-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione | 426 mg | [N+](=O)([O-])C=1C=C2NC(C(NC2=CC1N1C=CC(C=C1)=O)=O)=O | C13H8N4O5
